US07897619B2
To a solution of 2-propen-1-yl((2S)-2-((tert-butoxycarbonyl)amino)-3-(4-chlorophenyl)propyl)(3-(6-isoquinolinyl)-5-isoxazolyl)carbamate (0.095 g, 0.17 mmol) in 2.5 mL of DCM was added N,O-bis(trimethylsilyl)hydroxylamine (0.11 mL, 0.51 mmol) and tetrakis(triphenylphosphine) palladium(0) (0.0058 g, 0.0051 mmol). The mixture was stirred for 15 minutes. The reaction was quenched with 5 mL of aqueous NH4Cl and the biphasic mixture was stirred for 2 hours. The mixture was then partitioned and the aqueous portion was extracted twice with 5 mL of DCM. The combined organic extracts were dried over MgSO4. Filtration and concentration under reduced pressure afforded a residue that was taken up in 3 mL of DCM and 0.5 mL of TFA was then added. After 30 minutes, the reaction was diluted with 20 mL of DCM and transferred to a separatory funnel. 10 mL of 5% aqueous NaOH was added, and the biphasic mixture was shaken vigorously and partitioned. The aqueous portion was extracted twice with 15 mL of DCM, and the combined organic extracts were dried over MgSO4. Filtration and concentration under reduced pressure, followed by flash chromatography on silica gel (2.5 to 7.5% MeOH/CH2Cl2) afforded N-((S)-2-amino-3-(4-chlorophenyl)propyl)-3-(isoquinolin-6-yl)isoxazol-5-amine (0.025 g, 39% yield) as a yellow powder. LCMS (API-ES) m/z: 379 (M+1); 1H NMR (400 MHz, CD3O) δ ppm 9.29 (s, 1H), 8.51 (d, J=5.7 Hz, 1H), 8.29 (s, 1H), 8.20 (d, J=8.4 Hz, 1H), 8.07 (d, J=8.6 Hz, 1H), 7.92 (d, J=5.7 Hz, 1H), 7.37 (d, J=8.2 Hz, 2H), 7.30 (d, J=8.2 Hz, 2H), 5.60 (s, 1H), 3.45-3.20 (m, 3H), 2.92 (dd, J=5.7 Hz, 13.9 Hz, 1H), 2.72 (dd, J=7.1 Hz, 13.5 Hz, 1H).

reactant | 2-propen-1-yl((2S)-2-((tert-butoxycarbonyl)amino)-3-(4-chlorophenyl)propyl)(3-(6-isoquinolinyl)-5-isoxazolyl)carbamate | 0.17 mmol, 0.095 g | C(C=C)OC(N(C1=CC(=NO1)C=1C=C2C=CN=CC2=CC1)C[C@H](CC1=CC=C(C=C1)Cl)NC(=O)OC(C)(C)C)=O | C30H31ClN4O5
reactant | N,O-bis(trimethylsilyl)hydroxylamine | 0.51 mmol, 0.11 mL | C[Si](NO[Si](C)(C)C)(C)C | C6H19NOSi2
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaOH | 10 mL | [OH-].[Na+]
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.0051 mmol, 0.0058 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | N-((S)-2-amino-3-(4-chlorophenyl)propyl)-3-(isoquinolin-6-yl)isoxazol-5-amine | 0.025 g, 39% yield | N[C@H](CNC1=CC(=NO1)C=1C=C2C=CN=CC2=CC1)CC1=CC=C(C=C1)Cl | C21H19ClN4O
